US04111942
5,5-Dimethyl-8-(1,2-dimethylheptyl)-10-(4-piperidinobutyrylamino)-5H-[1]benzopyrano [4,3-c]pyridine hydrochloride (XII)
A mixture of 0.87 g. (2.47 mmole) of 10-amino-5,5-dimethyl-8-(1,2-dimethylheptyl)-5H-[1]benzopyrano[4,3-c]-pyridine, 0.51 g. (2.47 mmole) of 4-piperidinobutyric acid hydrochloride, 0.56 g. (2.72 mmole) of dicyclohexylcarbodiimide, and 50 ml. of dry methylene chloride was stirred at room temperature for 72 hours. The mixture was cooled and filtered and the filtrate concentrated to a residue which was recrystallized from methylene chloride-ether, m.p. 185-186°.

reactant | 10-amino-5,5-dimethyl-8-(1,2-dimethylheptyl)-5H-[1]benzopyrano[4,3-c]-pyridine | 2.47 mmole | NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C(CCCCC)C)C | C23H32N2O
reactant | 4-piperidinobutyric acid hydrochloride | 2.47 mmole | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 2.72 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-8-(1,2-dimethylheptyl)-10-(4-piperidinobutyrylamino)-5H-[1]benzopyrano [4,3-c]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C(CCCCC)C)C)NC(CCCN2CCCCC2)=O)C=2C=NC=CC21)C | InChI=1S/C32H47N3O2.ClH/c1-6-7-9-13-23(2)24(3)25-20-28(34-30(36)14-12-19-35-17-10-8-11-18-35)31-26-22-33-16-15-27(26)32(4,5)37-29(31)21-25;/h15-16,20-24H,6-14,17-19H2,1-5H3,(H,34,36);1H
